*Skyworks Solutions Discrete Library
*These models were derived from the Skyworks application note
*Varactor SPICE Models for RFVCO Applications
*APN1004
*or from the individual Skyworks Solutions data sheets

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1405 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .8
D1 2 Cathode diodem
CP 1 Cathode .05p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=2.92p VJ=.68 M=.41 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1408 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .6
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=3.7p VJ=.8 M=.48 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1411 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .4
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=7.57p VJ=.8 M=.45 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1413 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .35
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=9.2p VJ=.79 M=.45 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1417 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .22
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=19.2p VJ=.84 M=.48 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1419 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .2
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=23.4p VJ=.87 M=.54 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1493 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .5
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=29p VJ=.63 M=.47 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Abrupt Junction Tuning Varactor
.SUBCKT SMV1494 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .45
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=58p VJ=.63 M=.47 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1127 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .5
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=23.9p VJ=2.2 M=1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1129 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .4
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=27.5p VJ=2.8 M=1.1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1139 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .6
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=8p VJ=1.2 M=.65 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1130 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .8
D1 2 Cathode diodem
CP 1 Cathode 1.8p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=25.8p VJ=10 M=3.7 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1135 Anode Cathode
LS Anode 1 1.5n
RS 1 2 1.2
D1 2 Cathode diodem
CP 1 Cathode .8p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=10.3p VJ=8.6 M=2.9 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1140 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .3
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=70.44p VJ=3.5 M=1.4 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1141 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .7
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=7.32p VJ=2.2 M=1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1142 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .7
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=13.38p VJ=2.2 M=1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1143 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .65
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=18.99p VJ=2.2 M=1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1144 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .65
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=24.01p VJ=2.2 M=1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1145 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .6
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=41.8p VJ=2.5 M=1.1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1146 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .6
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=61.13p VJ=2.5 M=1.1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1147 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .55
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=89.52p VJ=2.5 M=1.1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1148 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .5
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=104.7p VJ=2.25 M=1.1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1175 Anode Cathode
LS Anode 1 1.7n
RS 1 2 1
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=13.43p VJ=3 M=1.15 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1206 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .7
D1 2 Cathode diodem
CP 1 Cathode .3p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=26.11p VJ=4 M=1.45 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1207 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .4
D1 2 Cathode diodem
CP 1 Cathode 2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=59.4p VJ=6.5 M=2.3 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1211 Anode Cathode
LS Anode 1 1.5n
RS 1 2 .4
D1 2 Cathode diodem
CP 1 Cathode 9.5p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=163p VJ=200 M=130 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1212 Anode Cathode
LS Anode 1 1.5n
RS 1 2 .8
D1 2 Cathode diodem
CP 1 Cathode 4.5p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=72.47p VJ=110 M=67 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1213 Anode Cathode
LS Anode 1 1.5n
RS 1 2 1.4
D1 2 Cathode diodem
CP 1 Cathode 2.2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=28.90p VJ=190 M=105 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1214 Anode Cathode
LS Anode 1 1.5n
RS 1 2 1.7
D1 2 Cathode diodem
CP 1 Cathode 1.5p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=22.74p VJ=190 M=106 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1215 Anode Cathode
LS Anode 1 1.5n
RS 1 2 2.8
D1 2 Cathode diodem
CP 1 Cathode 1.1p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=14.36p VJ=190 M=115 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1223 Anode Cathode
LS Anode 1 1.7n
RS 1 2 1.5
D1 2 Cathode diodem
CP 1 Cathode 2.5p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=25.19p VJ=100 M=45 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1224 Anode Cathode
LS Anode 1 1.7n
RS 1 2 1.5
D1 2 Cathode diodem
CP 1 Cathode 2.5p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=25.19p VJ=100 M=45 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1225 Anode Cathode
LS Anode 1 1.7n
RS 1 2 1.8
D1 2 Cathode diodem
CP 1 Cathode 1.6p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=17.46p VJ=110 M=47 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1227 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .55
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=52.46p VJ=5 M=1.8 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1228 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .32
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=130.1p VJ=5 M=1.8 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1229 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .25
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=271.72p VJ=5 M=1.8 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1232 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.5
D1 2 Cathode diodem
*CP 1 Cathode 0.0p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=4.2p VJ=1.7 M=.9 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1233 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.2
D1 2 Cathode diodem
CP 1 Cathode .7p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=4.12p VJ=1.7 M=.9 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1234 Anode Cathode
LS Anode 1 .7n
RS 1 2 .8
D1 2 Cathode diodem
CP 1 Cathode 1.2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=8.75p VJ=2.3 M=1.1 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1235 Anode Cathode
LS Anode 1 .7n
RS 1 2 .6
D1 2 Cathode diodem
CP 1 Cathode 2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=16.13p VJ=8 M=4 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1236 Anode Cathode
LS Anode 1 .7n
RS 1 2 .5
D1 2 Cathode diodem
CP 1 Cathode 3.2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=21.63p VJ=8 M=4.2 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1237 Anode Cathode
LS Anode 1 .7n
RS 1 2 .25
D1 2 Cathode diodem
CP 1 Cathode 9p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=66.16p VJ=10 M=5.3 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1238 Anode Cathode
LS Anode 1 .7n
RS 1 2 .75
D1 2 Cathode diodem
CP 1 Cathode 1.2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=56p VJ=6 M=2.4 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1245 Anode Cathode
LS Anode 1 1.7n
RS 1 2 2
D1 2 Cathode diodem
CP 1 Cathode .47p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=6.9p VJ=3.5 M=1.7 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1247 Anode Cathode
LS Anode 1 .7n
RS 1 2 2
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=9.22p VJ=13 M=10.5 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1248 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.8
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=21.54p VJ=13 M=10.5 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1249 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.5
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=39p VJ=17 M=14 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1250 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.5
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=47p VJ=17 M=14 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1251 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.3
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=60p VJ=17 M=14 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1253 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.2
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=70p VJ=17 M=14 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1255 Anode Cathode
LS Anode 1 .7n
RS 1 2 1.0
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=82p VJ=17 M=13 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1263 Anode Cathode
LS Anode 1 1.7n
RS 1 2 1.2
D1 2 Cathode diodem
CP 1 Cathode .67p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=8.2p VJ=15 M=9.5 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1265 Anode Cathode
LS Anode 1 1.7n
RS 1 2 2.4
D1 2 Cathode diodem
CP 1 Cathode .71p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=22.5p VJ=30 M=13 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1269 Anode Cathode
LS Anode 1 1.4n
RS 1 2 .6
D1 2 Cathode diodem
CP 1 Cathode .5p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=28.5p VJ=6.3 M=4.2 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1270 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .7
D1 2 Cathode diodem
CP 1 Cathode 2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=30p VJ=12 M=8 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1281 Anode Cathode
LS Anode 1 1.2n
RS 1 2 1.7
D1 2 Cathode diodem
CP 1 Cathode .62p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=13p VJ=14 M=6 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1283 Anode Cathode
LS Anode 1 1.7n
RS 1 2 2.4
D1 2 Cathode diodem
CP 1 Cathode .58p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=19p VJ=3 M=2.6 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1299 Anode Cathode
LS Anode 1 1.7n
RS 1 2 2.5
D1 2 Cathode diodem
CP 1 Cathode 1.1p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=13.73p VJ=190 M=110 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1409 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .5
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=5.2p VJ=.8 M=.45 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1410 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .45
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=5.54p VJ=.8 M=.45 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1414 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .3
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=11.2p VJ=.78 M=.46 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1415 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .27
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=12.8p VJ=.78 M=.46 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1416 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .24
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=16.04p VJ=.84 M=.48 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1420 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .19
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=30.2p VJ=.8 M=.47 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Varactor
.SUBCKT SMV1421 Anode Cathode
LS Anode 1 1.7n
RS 1 2 .18
D1 2 Cathode diodem
CP 1 Cathode .13p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=36.1p VJ=.8 M=.47 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1470 Anode Cathode
LS Anode 1 1.4n
RS 1 2 .5
D1 2 Cathode diodem
CP 1 Cathode 1p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=113p VJ=25 M=13 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1702 Anode Cathode
LS Anode 1 1.5n
RS 1 2 .5
D1 2 Cathode diodem
CP 1 Cathode .12p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=120p VJ=.89 M=.925 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=18 IBV=1e-5 ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1705 Anode Cathode
LS Anode 1 .8n
RS 1 2 .32
D1 2 Cathode diodem
CP 1 Cathode .5p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=31p VJ=3 M=2 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1763 Anode Cathode
LS Anode 1 .8n
RS 1 2 .5
D1 2 Cathode diodem
CP 1 Cathode .67p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=8.2p VJ=15 M=9.5 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1770 Anode Cathode
LS Anode 1 .8n
RS 1 2 .4
D1 2 Cathode diodem
CP 1 Cathode 2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=31p VJ=12 M=8 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV1771 Anode Cathode
LS Anode 1 .8n
RS 1 2 .4
D1 2 Cathode diodem
CP 1 Cathode 2p
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=31p VJ=12 M=8 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Varactor Diode Chip
.SUBCKT SMV2019 Anode Cathode
RS 1 2 4.8
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=2.3p VJ=3.5 M=1.4 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=22 IBV=1e-5 ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Varactor Diode Chip
.SUBCKT SMV2020 Anode Cathode
RS 1 2 4.1
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=3.3p VJ=3.6 M=1.3 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=22 IBV=1e-5 ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Varactor Diode Chip
.SUBCKT SMV2021 Anode Cathode
RS 1 2 2.8
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=4.5p VJ=3.9 M=1.34 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=22 IBV=1e-5 ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV2022 Anode Cathode
LS Anode 1 1.5n
RS 1 2 2.2
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=7.3p VJ=4 M=1.4 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

*Hyperabrupt Junction Tuning Varactor
.SUBCKT SMV2023 Anode Cathode
LS Anode 1 1.5n
RS 1 2 1.6
D1 2 Cathode diodem
.model diodem d (IS=1e-14 RS=0 N=1 TT=0 CJO=12.23p VJ=4 M=1.4 EG=1.11 XTI=3
+ KF=0 AF=1 FC=.5 BV=0 IBV=1m ISR=0 NR=2 IKF=0 NBV=1 IBVL=0 NBVL=1 TBV1=0)
.ENDS

